US09416090B2
Low Molecular Weight Poly(Tyrosol Carbonate)
In a 250 mL 3-necked round-bottomed flask equipped with a mechanical stirrer, and a liquid addition device were placed 10 g (0.073 mol) of tyrosol, 22 ml (0.277 mol) of pyridine, 60 mL of DCM and stirred for 15 min to get a clear solution. Triphosgene (7.0 g, 0.071 mol of phosgene) was dissolved in 25 mL of DCM and the solution was introduced into the reaction flask over 2-3 hours. After the addition was complete, the 100 mL of 0.2 M aqueous HCl was added to the reaction mixture and stirred for 5 min. After allowing the layers to separate, the top aqueous layer was removed and discarded. The washing was repeated with three additional 100 portions of 0.2 M aqueous HCl. The reaction mixture was then dried over anhydrous magnesium sulfate and then precipitated with 100 mL of hexane. The resulting viscous oil was stirred with 200 mL of fresh hexane until the product solidified into a white solid. The product was transferred to a glass dish dried in a vacuum oven at 60° C. The polymer had a HPSEC polystyrene equivalent Mw of 7500 da and Mn of 5700 da (THF as mobile phase) and glass transition temperature (Tg) of 48° C. A number of oligomers and polymers ranging in Mw from 750 da to 40,000 da were prepared using this method.

reactant | tyrosol | 0.073 mol, 10 g | C1=CC(=CC=C1CCO)O | C8H10O2
reactant | pyridine | 0.277 mol, 22 ml | N1=CC=CC=C1 | C5H5N
reactant | Triphosgene | 0.071 mol, 7.0 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | HCl | 0.2 M, 100 mL | Cl | ClH
solvent | DCM | 25 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 60 mL | C(Cl)Cl | CH2Cl2
product | Tyrosol Carbonate | C1=CC(=CC=C1CCO)O.C([O-])([O-])=O | InChI=1S/C8H10O2.CH2O3/c9-6-5-7-1-3-8(10)4-2-7;2-1(3)4/h1-4,9-10H,5-6H2;(H2,2,3,4)/p-2
